US07199239B2
Intermediate 98: N-2-Propen-1-yl-6-[4-(trifluoromethyl)phenyl]-2-pyridinamine
A mixture of of allylamine (0.447 mL, 5.96 mmol) and 2-bromo-6-[4-(trifluoromethyl)phenyl]pyridine (0.1 g, 0.298 mmol) in ethanol (5 mL) were heated at 100° C. in a 25 mL pressure vessel. After heating overnight the reaction was cooled and copper sulfate was added and heating continued at 100° C. overnight. After this time the reaction was allowed to coole to room temperature and concentrated in vacuo. Purification by SPE (Silica, 10 g) eluting 3:1 cyclohexane:chloroform afforded the title compound as a dark yellow solid (0.062 g).

reactant | allylamine | 5.96 mmol, 0.447 mL | C(C=C)N | C3H7N
reactant | 2-bromo-6-[4-(trifluoromethyl)phenyl]pyridine | 0.298 mmol, 0.1 g | BrC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H7BrF3N
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | N-2-Propen-1-yl-6-[4-(trifluoromethyl)phenyl]-2-pyridinamine | 0.062 g | C(C=C)NC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C15H13F3N2
